US09102614B2
2-(1,6-Bis(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetic acid (66)
Preparation of ethyl 2-(1,6-bis(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-hydroxyacetate: A solution of ethyl 2-(1,6-bis(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-oxoacetate (0.145 g, 0.31 mmol) in EtOH (2 mL) and DCM (1 mL) at 0° C. was treated with NaBH4 (0.018 g, 0.048 mmol) in one portion. The reaction was allowed to warm to room temperature over 30 min and treated with saturated NaHCO3 (3 mL). The mixture was stirred vigorously for 30 min and then diluted with EtOAc and water. Following extraction with EtOAc, the organics were washed with brine, dried over anhydrous Na2SO4 and concentrated to produce 0.121 g (84%) of the title compound as a white foam that was used in subsequent steps without further purification. 1H-NMR: 400 MHz, (CDCl3) δ: 7.94 (s, 1H); 7.73 (s, 1H); 7.60 (d, J=8.4 Hz, 2H); 7.56-7.42 (m, 6H); 7.38-7.30 (m, 2H); 5.23 (s, 1H); 4.20 (m, 2H); 2.52 (s, 3H); 1.21 (t, J=7.2 Hz, 3H).

reactant | ethyl 2-(1,6-bis(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-hydroxyacetate | ClC1=CC=C(C=C1)C1=C(C(=CC2=CC(=CC=C12)C1=CC=C(C=C1)Cl)C)C(C(=O)OCC)O | C27H22Cl2O3
reactant | ethyl 2-(1,6-bis(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-oxoacetate | 0.31 mmol, 0.145 g | ClC1=CC=C(C=C1)C1=C(C(=CC2=CC(=CC=C12)C1=CC=C(C=C1)Cl)C)C(C(=O)OCC)=O | C27H20Cl2O3
reactant | NaBH4 | 0.048 mmol, 0.018 g | [BH4-].[Na+]
reactant | NaHCO3 | 3 mL | C(=O)(O)[O-].[Na+]
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 2-(1,6-Bis(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetic acid | 0.121 g, 84% | ClC1=CC=C(C=C1)C1=C(C(=CC2=CC(=CC=C12)C1=CC=C(C=C1)Cl)C)C(C(=O)O)OC(C)(C)C | C29H26Cl2O3
